US06313322B1
Bull. Soc. Fr. 1965, 1007-1014 discloses the use of phosphoric acid. 3-Methyl-2-butenal is stirred with ethanol, triethyl orthoformate and phosphoric acid at room temperature for 40 hours. The reaction mixture is then taken up in ether, washed with 0.5 N aqueous ammonia and dried over sodium sulfate. Subsequent distillation affords 3-methyl-2-butenal diethyl acetal in a yield of 65%.

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | 3-Methyl-2-butenal | CC(=CC=O)C | C5H8O
reactant | ethanol | C(C)O | C2H6O
reactant | triethyl orthoformate | C(OCC)(OCC)OCC | C7H16O3
solvent | ether | CCOCC | C4H10O
product | 3-methyl-2-butenal diethyl acetal | yield of 65% | C(C)OC(C=C(C)C)OCC | C9H18O2
